US06436929B1
4-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile
A mixture of 4-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile (0.23 g, 0.8 mmol) and Lawesson's reagent (0.38 g, 0.96 mmol) in anhydrous o-xylene was heated to reflux under nitrogen for 3 hours. The solvent was removed in vacuo and the residue was purified by a flash chromatography (silica gel, hexane:ethyl acetate/3:1) to afford the title compound as a yellow solid (85 mg, 35%): mp 242-243° C.; 1H-NMR (DMSO-d6) δ12.22 (s, 1H, D2O exchangeable), 8.50 (d, 1H, J=1.2 Hz), 8.37 (d, 1H, J=1.0 Hz), 7.71 (m, 2H), 7.09 (d, 1H, J=8.0 Hz), 1.69 (s, 6H); MS (APCI) m/z 301 ([M+H]+, 100%); Anal. Calc. For C15H12N2OS2: C, 59.97; H, 4.03; N, 9.33. Found: C, 59.67; H, 3.85; N, 9.14.

reactant | 4-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile | 0.8 mmol, 0.23 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(SC2)C#N)C | C15H12N2O2S
reactant | Lawesson's reagent | 0.96 mmol, 0.38 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | 4-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-thiophene-2-carbonitrile | 85 mg, 35% | CC1(C2=C(NC(O1)=S)C=CC(=C2)C=2C=C(SC2)C#N)C | C15H12N2OS2
